US09284486B2
4-bromo-2,5-difluoroaniline (10 mmol), benzeneboronic acid (12 mmol), tetrakis(triphenylphosphine)palladium(0) (1 mmol) and potassium carbonate (12 g) are put in a two-neck round-bottom flask and dissolved in toluene (30 mL), H2O (10 mL) and ethanol (5 mL). Subsequently, the resulting solution is stirred in a bath under a temperature of about 100° C. for 24 hours. After completion of the reaction, toluene is removed. The reaction mixture is extracted with dichloromethane and water, and then being distilled under reduced pressure. The resulting residence is filtered by silica gel column and distilled under reduced pressure again. Next, by re-crystallizing and filtering with dichloromethane and petroleum ether, 4-phenyl-2,5-difluoroaniline (2.2 g) is yielded.

reactant | 4-bromo-2,5-difluoroaniline | 10 mmol | BrC1=CC(=C(N)C=C1F)F | C6H4BrF2N
reactant | benzeneboronic acid | 12 mmol | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | H2O | 10 mL | O | H2O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-phenyl-2,5-difluoroaniline | 2.2 g | C1(=CC=CC=C1)C1=CC(=C(N)C=C1F)F | C12H9F2N
